* =============================================================================
* test_m_invx2_cg.cir — INVx2 Input Capacitance (Cin) via AC for Xyce
* =============================================================================
* Bare devices (NOT subcircuit): 2x NMOS nfin=2 + 2x PMOS nfin=2
* Simulates M=2 with 4 total devices, gates tied together.
* Cin = |II(vg)| / (2*pi*f) at f=1GHz
* Bias: NMOS Vgs=Vds=0.35V, PMOS Vg=0.35V Vd=0.35V Vs=0.7V
* Run:  Xyce test_m_invx2_cg.cir
* =============================================================================

.include '/Users/bruce/CLAUDE/asap5/spice/xyce_models/nmos_lvt_tt_cal.pm'
.include '/Users/bruce/CLAUDE/asap5/spice/xyce_models/pmos_lvt_tt_cal.pm'
.include '/Users/bruce/CLAUDE/asap5/spice/xyce_models/asap5_inv_lib.sp'

.OPTIONS DEVICE GMIN=1e-12
.OPTIONS NONLIN RELTOL=1e-4 ABSTOL=1e-9
.OPTIONS MEASURE MEASDGT=5

* --- Bias supplies ---
vdd  vdd  0  dc 0.7
vss  vss  0  dc 0

* --- Gate: AC source with DC bias at mid-rail ---
vg   gate  0  dc 0.35 ac 1

* --- NMOS pair (M=2): drain=0.35V, source=0V ---
vdn  nd  0  dc 0.35
vsn  ns  0  dc 0

mn1  nd gate ns vss nmos_lvt l=16n nfin=2
mn2  nd gate ns vss nmos_lvt l=16n nfin=2

* --- PMOS pair (M=2): drain=0.35V, source=0.7V ---
vdp  pd  0  dc 0.35
vsp  ps  0  dc 0.7

mp1  pd gate ps vdd pmos_lvt l=16n nfin=2
mp2  pd gate ps vdd pmos_lvt l=16n nfin=2

.AC DEC 10 1e8 1e11
.PRINT AC II(vg) IR(vg)

* Cin = |II(vg)| / (2*pi*1e9)
.MEASURE AC cin FIND {II(vg)/(2*3.14159265*1e9)} AT=1e9

.END
