* =============================================================================
* test_m_invx2_dc.cir — INVx2 DC VTC Sweep for Xyce
* =============================================================================
* ASAP5 LVT nanosheet GAA, VDD=0.7V, CL=1.0fF
* INVx2 = M=2 (2 parallel nfin=2 NMOS + 2 parallel nfin=2 PMOS)
* Run:  Xyce test_m_invx2_dc.cir
* =============================================================================

.include '/Users/bruce/CLAUDE/asap5/spice/xyce_models/nmos_lvt_tt_cal.pm'
.include '/Users/bruce/CLAUDE/asap5/spice/xyce_models/pmos_lvt_tt_cal.pm'
.include '/Users/bruce/CLAUDE/asap5/spice/xyce_models/asap5_inv_lib.sp'

.OPTIONS DEVICE GMIN=1e-12
.OPTIONS NONLIN RELTOL=1e-4 ABSTOL=1e-9
.OPTIONS MEASURE MEASDGT=5

.param vdd_val = 0.7

vdd  vdd  0  dc {vdd_val}
vss  vss  0  dc 0
vin  in   0  dc 0

xinv in out vdd vss INVx2

cload out 0 1.0f

.DC vin 0 0.7 0.001
.PRINT DC V(in) V(out)
.MEASURE DC v_trip FIND V(in) WHEN V(out)=0.35

.END
