* =============================================================================
* test_m_invx1_tran.cir — INVx1 Transient Delay + Energy for Xyce
* =============================================================================
* ASAP5 LVT nanosheet GAA, VDD=0.7V, CL=1.0fF
* Run:  Xyce test_m_invx1_tran.cir
* =============================================================================

.include '/Users/bruce/CLAUDE/asap5/spice/xyce_models/nmos_lvt_tt_cal.pm'
.include '/Users/bruce/CLAUDE/asap5/spice/xyce_models/pmos_lvt_tt_cal.pm'
.include '/Users/bruce/CLAUDE/asap5/spice/xyce_models/asap5_inv_lib.sp'

.OPTIONS DEVICE GMIN=1e-12
.OPTIONS NONLIN RELTOL=1e-4 ABSTOL=1e-9
.OPTIONS MEASURE MEASDGT=5
.OPTIONS TIMEINT METHOD=trap RELTOL=1e-3 ABSTOL=1e-12

.param vdd_val = 0.7

vdd  vdd  0  dc {vdd_val}
vss  vss  0  dc 0
vin  in   0  pulse(0 0.7 50p 5p 5p 95p 200p)

xinv in out vdd vss INVx1

cload out 0 1.0f

.TRAN 0.5p 400p
.PRINT TRAN V(in) V(out) I(vdd)

* --- Propagation delay ---
.MEASURE TRAN tphl TRIG V(in) VAL=0.35 RISE=1 TARG V(out) VAL=0.35 FALL=1
.MEASURE TRAN tplh TRIG V(in) VAL=0.35 FALL=1 TARG V(out) VAL=0.35 RISE=1

* --- Output transition times (10%-90%) ---
.MEASURE TRAN fall_time TRIG V(out) VAL=0.63 FALL=1 TARG V(out) VAL=0.07 FALL=1
.MEASURE TRAN rise_time TRIG V(out) VAL=0.07 RISE=1 TARG V(out) VAL=0.63 RISE=1

* --- Average supply current ---
.MEASURE TRAN avg_idd AVG I(vdd) FROM=50p TO=250p

* --- Energy: integrate VDD*I(VDD) ---
.MEASURE TRAN e_fall INTEG {V(vdd)*I(vdd)} FROM=50p TO=150p
.MEASURE TRAN e_rise INTEG {V(vdd)*I(vdd)} FROM=150p TO=250p
.MEASURE TRAN e_total INTEG {V(vdd)*I(vdd)} FROM=50p TO=250p

.END
